US09376380B2
Preparation of 2-Phenylacetamide
Benzyl cyanide (5 g, 42.7 mmol) was added slowly to concentrated sulfuric acid (20 ml) cooled by water-ice bath. The solution was stirred overnight. The reaction mixture was poured into ice water and neutralized with 20% NaOH. The aqueous phase was extracted by ethyl acetate (3×15 mL). The combined organic layers were washed with water (3×10 mL) and brine (3×10 mL), dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate and hexane to give the title compound (4.5 g, 78%). 1H NMR (400 MHz, DMSO-d6) δ 7.54 (s, 1H), 7.20-7.32 (m, 5H), 6.87 (s, 1H), 3.38 (s, 2H).

reactant | Benzyl cyanide | 42.7 mmol, 5 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Phenylacetamide | 4.5 g, 78% | C1(=CC=CC=C1)CC(=O)N | C8H9NO
